US04564577
2-Bromomethyl-3-pentadecyl-1,4-naphthoquinone
2-Pentadecyl-1,4-naphthoquinone (60 g, 0.163 mol) was suspended in acetic acid (2 l) with stirring. Aqueous 37 percent formaldehyde (200 ml, 2.4 mol) and 31 percent hydrogen bromide in acetic acid (660 ml, 2.4 mol) were added and the mixture was stirred at room temperature overnight. The precipitated product was then filtered off, washed with a minimum amount of acetic acid, water, and was then air dried. Yield: 60 g (80 percent). (Method of R. H. Thomson, J. Chem. Soc., 1953, 1196).

reactant | 2-Pentadecyl-1,4-naphthoquinone | 0.163 mol, 60 g | C(CCCCCCCCCCCCCC)C=1C(C2=CC=CC=C2C(C1)=O)=O | C25H36O2
reactant | formaldehyde | 2.4 mol, 200 ml | C=O | CH2O
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 2 l | C(C)(=O)O | C2H4O2
reactant | acetic acid | 2.4 mol, 660 ml | C(C)(=O)O | C2H4O2
product | 2-Bromomethyl-3-pentadecyl-1,4-naphthoquinone | BrCC=1C(C2=CC=CC=C2C(C1CCCCCCCCCCCCCCC)=O)=O | C26H37BrO2
